US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-(1,3-Dioxolan-2-yl)-phenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
To a stirred solution of 5-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionyl}methylamino)pentanoic acid (2.33 g, 4.84 mmol), 4-(1,3-dioxolan-2-yl)phenylamine (800 mg, 5 mmol) and N,N-diisopropylethylamine (1.26 mL, 7.26 mmol) in DCM (48.4 mL) was added 1-hydroxy-7-azabenzotriazole (692 mg, 5.08 mmol) and N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride (1.39 g, 7.26 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was then washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (3.04 g, 100% yield) as a yellow solid.

reactant | 5-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionyl}methylamino)pentanoic acid | 4.84 mmol, 2.33 g | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)CNCCCCC(=O)O)C1=CC=CC=C1 | C27H35N3O5
reactant | 4-(1,3-dioxolan-2-yl)phenylamine | 5 mmol, 800 mg | O1C(OCC1)C1=CC=C(C=C1)N | C9H11NO2
reactant | N,N-diisopropylethylamine | 7.26 mmol, 1.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 5.08 mmol, 692 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 7.26 mmol, 1.39 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 48.4 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-(1,3-Dioxolan-2-yl)-phenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | 3.04 g, 100% yield | O1C(OCC1)C1=CC=C(C=C1)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C36H44N4O6
